US09382237B2
To a solution of 1-(4-nitrophenyl)piperazine (0.5 g) and TEA (0.7 mL) in DCM (15 mL) at rt was added 4-nitrophenyl chloroformate (0.7 g). The reaction mixture was stirred at rt for 18 h and then partitioned between DCM and ice-water. The separated aqueous layer was extracted with DCM thrice and the pooled organic extracts was washed with water and sat'd NaCl, dried over anhyd. Na2SO4, filtered, and conc. in vacuo to give the crude product as a yellow solid which was recrystallized from DCM and diisopropylether to give 4-nitrophenyl 4-(4-nitrophenyl)piperazine-1-carboxylate as a bright yellow powder (Y=0.8 g, 89%).

reactant | 1-(4-nitrophenyl)piperazine | 0.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | 4-nitrophenyl chloroformate | 0.7 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-nitrophenyl 4-(4-nitrophenyl)piperazine-1-carboxylate | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H16N4O6
